US07829707B2
(e) 1-(6-Ethoxy-pyridin-2-ylmethyl)-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one
Ethoxycarbonyl isothiocyanate (0.12 g, 0.90 mmol) was added to 3-[(6-ethoxy-pyridin-2-ylmethyl)-amino]-1H-pyrrole-2-carboxylic acid ethyl ester (0.24 g, 0.82 mmol) in CH2Cl2 (5 mL) and the solution was stirred at ambient temperature for 35 minutes. The solvent was evaporated and 0.4M NaOEt in ethanol (3 mL, 1.2 mmol) was added to the residue and the mixture was refluxed for 1 h. More NaOEt (0.4M in ethanol, 1.5 mL, 0.6 mmol) was added and the solution was refluxed for another 1.5 h. The solvent was evaporated, the residue was dissolved in water and the pH adjusted to neutral pH with 1M HCl. The resulting solid was collected, washed, and dried to give crude product. This material was purified by preparative HPLC to yield the title compound (38 mg, 15%) as a solid.

reactant | Ethoxycarbonyl isothiocyanate | 0.90 mmol, 0.12 g | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | 3-[(6-ethoxy-pyridin-2-ylmethyl)-amino]-1H-pyrrole-2-carboxylic acid ethyl ester | 0.82 mmol, 0.24 g | C(C)OC(=O)C=1NC=CC1NCC1=NC(=CC=C1)OCC | C15H19N3O3
reactant | NaOEt | 0.4M | CC[O-].[Na+]
reactant | ethanol | 1.2 mmol, 3 mL | C(C)O | C2H6O
reactant | NaOEt | 0.6 mmol, 0.4M, 1.5 mL | CC[O-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(6-Ethoxy-pyridin-2-ylmethyl)-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one | 38 mg, 15% | C(C)OC1=CC=CC(=N1)CN1C(NC(C2=C1C=CN2)=O)=S | C14H14N4O2S
